US06268391B1
6-Bromo-3-(3,5-dichloro-4-hydroxy-benzylidene)-1,3-dihydro-indol-2-one
The title compound is synthesized in an identical manner to example 2 except 6-bromo-oxindole was used in place of 5-(2-methyl-thiazol4-yl)-1,3-dihydro-indol-2-one hydrochloride and 3,5-dichloro-4-hydroxy-benzaldehyde was used in place of 3,5-dibromo-4a-hydroxy-benzaldehyde. 1H NMR (DMSO-d6) δ7.05 (s, 1H); 7.12 (d, 1H); 7.43 (d, 1H); 7.56 (s, 1H); 7.76 (s, 2H); 10.78 (bs, 1H); 10.91 (bs, 1H). Electrospray MS (−ve) 384.

reactant | 6-bromo-oxindole | BrC1=CC=C2CC(NC2=C1)=O | C8H6BrNO
reactant | 3,5-dichloro-4-hydroxy-benzaldehyde | ClC=1C=C(C=O)C=C(C1O)Cl | C7H4Cl2O2
product | 6-Bromo-3-(3,5-dichloro-4-hydroxy-benzylidene)-1,3-dihydro-indol-2-one | BrC1=CC=C2C(C(NC2=C1)=O)=CC1=CC(=C(C(=C1)Cl)O)Cl | C15H8BrCl2NO2
